.SUBCKT 3input0x27_X1 A1 A2 A3 VDD VSS Y
MM5 VDD A1 oai21 VDD pmos_rvt w=46.00n l=16n nfin=2
MM3 oai21 A3 n1 VDD pmos_rvt w=46.00n l=16n nfin=2
MM4 VDD A2 n1 VDD pmos_rvt w=46.00n l=16n nfin=2
MM2 VSS A1 n2 VSS nmos_rvt w=46.00n l=16n nfin=2
MM0 oai21 A2 n2 VSS nmos_rvt w=46.00n l=16n nfin=2
MM1 oai21 A3 n2 VSS nmos_rvt w=46.00n l=16n nfin=2
MM6 n3 A1 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM7 n3 A3 n4 VDD pmos_rvt w=46.0n l=16n nfin=2
MM9 Y A2 n4 VDD pmos_rvt w=46.0n l=16n nfin=2
MM8 Y oai21 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM10 n6 oai21 Y VSS nmos_rvt w=46.0n l=16n nfin=2
MM11 VSS A1 n6 VSS nmos_rvt w=46.0n l=16n nfin=2
MM12 VSS A2 n6 VSS nmos_rvt w=46.0n l=16n nfin=2
MM13 VSS A3 n6 VSS nmos_rvt w=46.0n l=16n nfin=2
.ENDS
